US05026715
A. 4-(1H-Indol-2-yl)-2-guanidinothiazole Hydrobromide
By reaction of 1.31 g (5.48 mmole) 1-(1H-indol-2-yl)-2-bromoethanone with 0.65 g (5.53 mmole) guanylthiourea by the method of Example 10 afforded 1.49 g (80%) of the title salt; m.p. 309°-310° C. (decomp.).

reactant | 1-(1H-indol-2-yl)-2-bromoethanone | 5.48 mmole, 1.31 g | N1C(=CC2=CC=CC=C12)C(CBr)=O | C10H8BrNO
reactant | guanylthiourea | 5.53 mmole, 0.65 g | C(N)(=N)NC(=S)N | C2H6N4S
product | 4-(1H-Indol-2-yl)-2-guanidinothiazole Hydrobromide | 1.49 g, 80% | Br.N1C(=CC2=CC=CC=C12)C=1N=C(SC1)NC(=N)N | InChI=1S/C12H11N5S.BrH/c13-11(14)17-12-16-10(6-18-12)9-5-7-3-1-2-4-8(7)15-9;/h1-6,15H,(H4,13,14,16,17);1H
